US07157464B2
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(3,4-difluorophenyl)piperazin-1-yl]-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(3,4-Difluorophenyl)-piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (DMSO-d6, 400 MHz, not F-decoupled) 7.25 (q, 1H), 7.04 (m, 1H), 6.74 (d, 1H), 5.37 (s, 2H), 3.57 (m, 4H), 3.24 (m, 2H), 3.12 (m, 2H), 2.18 (s, 3H) ppm; MS (ES) M+H expected=423.1, found 423.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(3,4-Difluorophenyl)-piperazine | FC=1C=C(C=CC1F)N1CCNCC1 | C10H12F2N2
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(3,4-difluorophenyl)piperazin-1-yl]-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=CC(=C(C=C1)F)F)C(F)(F)F | C17H16ClF5N4O
